US06004977
2,3-Dihydro-5-fluoro-N-(4-pyridinyl)-1H-isoindol-2-amine hydrochloride 1/8 hydrate
A mixture of 4-fluorophthalic anhydride (5.99 g), 4-pyridinylhydrazine hydrochloride (5.00 g), and glacial acetic (30 ml) acid was stirred under reflux, under nitrogen, for 4 hrs. The reaction mixture was evaporated, and the residue was azeotroped with heptane. The residue was dried in vacuo to give 4-fluoro-2-(4-pyridinylamino)-isoindol-1,3-dione. To a mixture of lithium aluminum hydride (3.91 g) and dry tetrahydrofuran (100 ml), 2,3-dihydro-5-fluoro-2-(4-pyridinylamino)isoindole-1,3-dione hydrochloride was added in portions with rapid stirring, under nitrogen, at ambient temperature. The reaction mixture was stirred under nitrogen, overnight, at ambient temperature, and sodium sulfate decahydrate was added in portions. The mixture was filtered through a bed of celite, the filter cake was washed with ethyl acetate and concentrated in vacuo. The residue was chromatographed over silica gel, eluting with 7% methanol-dichloromethane, followed by 185:14:1 dichloromethane:methanol:ammonium hydroxide. The appropriate fractions were collected and evaporated. The residue was dissolved in absolute ethanol, excess concentrated hydrochloric acid was added, and the mixture was evaporated. The residue was crystallized from absolute ethanol to give 550 mg (6%) of product, (dried under vacuum at 80° C. overnight), mp 235-240° C. (decomp).

reactant | lithium aluminum hydride | 3.91 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,3-dihydro-5-fluoro-2-(4-pyridinylamino)isoindole-1,3-dione hydrochloride | Cl.FC=1C=C2C(N(C(C2=CC1)=O)NC1=CC=NC=C1)=O
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-5-fluoro-N-(4-pyridinyl)-1H-isoindol-2-amine hydrochloride | 550 mg, 6% | Cl.FC=1C=C2CN(CC2=CC1)NC1=CC=NC=C1 | InChI=1S/C13H12FN3.ClH/c14-12-2-1-10-8-17(9-11(10)7-12)16-13-3-5-15-6-4-13;/h1-7H,8-9H2,(H,15,16);1H
